US05324747
A mixture of 1.0 g (4.7 mmol) of 5-nitroisophthalic acid, 3.1 ml (10.3 mmol) of 1-bromotetradecane and 2.0 g (15 mmol) of potassium carbonate in 40 ml of anhydrous DMF was stirred and heated at 100° for 20 hours. Water was added to the cooled reaction mixture and the resultant solid was filtered and recrystallized from methylene chloride-methanol to give 2.1 g (74% yield, mp 60°-61°) of 5-nitro-1,3-benzenedicarboxylic acid ditetradecyl ester.

reactant | 5-nitroisophthalic acid | 4.7 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | 1-bromotetradecane | 10.3 mmol, 3.1 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-nitro-1,3-benzenedicarboxylic acid ditetradecyl ester | 2.1 g, 74% yield | C(CCCCCCCCCCCCC)OC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCCCCCC | C36H61NO6
